US08754101B2
Intermediate 26: trans-3-{[4-Fluoro-3-(trifluoromethyl)phenyl]oxy}-N-{[5-({[(methyloxy)methyl]oxy}methyl)imidazo[1,2-a]pyridin-8-yl]methyl}cyclobutanamine
To a stirred solution of 5-({[(methyloxy)methyl]oxy}methyl)imidazo[1,2-a]pyridine-8-carbaldehyde (34 mg, 0.154 mmol) and trans-3-{[4-fluoro-3-(trifluoromethyl)phenyl]oxy}cyclobutanamine hydrochloride salt (44 mg, 0.154 mmol) in a mixture of DCM (1 mL) and methanol (1 mL) was added DIPEA (0.027 mL, 0.155 mmol) and sodium triacetoxyborohydride (98 mg, 0.463 mmol). The reaction was stirred at ambient temperature for 3.5 hours and then diluted with DCM (10 mL). The solution was then washed with saturated aqueous sodium bicarbonate (10 mL), dried (hydrophobic frit) and concentrated in vacuo. The residue was dissolved in DCM and purified on a silica cartridge (10 g) using a 0-10% methanol-DCM gradient over 40 min. The product containing fractions were combined and evaporated in vacuo to give the title compound as a yellow oil (32 mg).

reactant | 5-({[(methyloxy)methyl]oxy}methyl)imidazo[1,2-a]pyridine-8-carbaldehyde | 0.154 mmol, 34 mg | COCOCC1=CC=C(C=2N1C=CN2)C=O | C11H12N2O3
reactant | trans-3-{[4-fluoro-3-(trifluoromethyl)phenyl]oxy}cyclobutanamine hydrochloride salt | 0.154 mmol, 44 mg | Cl.FC1=C(C=C(C=C1)O[C@@H]1C[C@H](C1)N)C(F)(F)F
reactant | DIPEA | 0.155 mmol, 0.027 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium triacetoxyborohydride | 0.463 mmol, 98 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | trans-3-{[4-Fluoro-3-(trifluoromethyl)phenyl]oxy}-N-{[5-({[(methyloxy)methyl]oxy}methyl)imidazo[1,2-a]pyridin-8-yl]methyl}cyclobutanamine | 32 mg | FC1=C(C=C(C=C1)O[C@@H]1C[C@H](C1)NCC=1C=2N(C(=CC1)COCOC)C=CN2)C(F)(F)F | C22H23F4N3O3
